datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCC1>>C[C:22]1=[C:21]([CH:20]([CH:10]2CCCC[C:11]2=[O+:12][Si:63](C)(C)C)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.CC[O:72][C:61]([C:10](C)=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62]>>CC[O:72][C:61]([C:10](C)([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](OC2=CC=CC=C2)[CH:45]=[CH:46]1)=[O:62] 10,11=10,20"
"FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33].[O-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:73]=[CH:72]1>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].FC(F)[S:20][O:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:73]=[CH:72]1 10=20;20,21=21,22;22,23=23"
"CC12C3C4C5C1[W-3:11]4532(C#[O+])(C#[O+])(C#[O+])[H:10].[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>CC12C3C4C5C1[W-2:11]4532(C#[O+])(C#[O+])C#[O+].[H:10][C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2 10,11=10,20"
"CC[O:82][C:71]([CH:10]=[N+:11]([O-:12])[O-:62])=[O:72].C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC[O:82][C:71]([CH:10]([N+:11](=[O:12])[O-:62])[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[O:72] 10,11=10,20;12=11,12"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.CN1CC[N:14]2CCN(C)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23>>CN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]1)[CH:61]=[C:62]3N(C)CC2 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[N:12]([C:11]1=[CH:10]CCCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1>>C[N+:12](=[C:11]1CCCC[CH:10]1[CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCCCC[C:11](=[CH2:10])CCCCC1.C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[N:23](C)[CH:22]=[CH:21][CH:20]([CH2:10][C+:11]1CCCCCCCCCCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1.[H:10][Sn:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([H:10])[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1.[Sn+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(Cl)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(Cl)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]2)S1 10,11=10,20;12=11,12;20,21=21"
"C=C(C)CCC[C:11](C)=[CH2:10].N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>C=C(C)CCC[C+:11](C)[CH2:10][CH:20]([CH:21]=[C:22](C1=CC=CC=C1)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)C1.CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14]3CCCC3)[CH:62]=[CH:61]2)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23,24;24,25=25"
"CC(C)(C)[O:94][C:83]([N:12]1[CH:11]=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84].F[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)(C)[O:94][C:83]([N+:12]1=[CH:11][CH:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84] 10,11=10,20;12=11,12"
